US08058045B2
A mixture of tert-butyl-4-((6-(5-cyanopyrazin-2-ylamino)pyrimidin-4-ylamino)methyl)-piperidine-1-carboxylate (0.15 mmol) and trifluoroacetic acid was heated at 82° C. for 4 hours. The solution was evaporated to dryness and the residue was purified by preparative HPLC to give 5-(6-(piperidin-4-ylmethylamino)pyrimidin-4-ylamino)pyrazine-2-carboxamide (7.36 mg, 15%).

reactant | tert-butyl-4-((6-(5-cyanopyrazin-2-ylamino)pyrimidin-4-ylamino)methyl)-piperidine-1-carboxylate | 0.15 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=NC(=C1)NC1=NC=C(N=C1)C#N | C20H26N8O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(6-(piperidin-4-ylmethylamino)pyrimidin-4-ylamino)pyrazine-2-carboxamide | 7.36 mg, 15% | N1CCC(CC1)CNC1=CC(=NC=N1)NC=1N=CC(=NC1)C(=O)N | C15H20N8O
